US04412074
Example 4: Preparation of 2-isopropyl-4,6-dichloro-5-ethylsulfonylpyrimidine
9.8 g (0.039 mole) of 2-isopropyl-4,6-dichloro-5-ethylthiopyrimidine are dissolved in 50 ml of acetic acid and then 15.2 g (0.08 mole) of peracetic acid are slowly added dropwise to this solution. The exothermic reaction is kept in check by cooling at 40° C. After being stirred for 24 hours at room temperature, the clear solution is diluted with 4 times its volume of water. The precipitate is isolated by filtration and taken up in methylene chloride. The aqueous filtrate is extracted with methylene chloride and the extract is washed with sodium bicarbonate solution until neutral. The combined methylene chloride phases are dried over magnesium sulfate, filtered and concentrated to an oil. The residue (6.3 g) is distilled in a high vacuum in a bulb tube. At an oven temperature of 150° C./3;10-2 mbar, 5.4 g of 2-isopropyl-4,6-dichloro-5-ethylsulfonylpyrimidine distill in the form of a colourless oil.

reactant | 2-isopropyl-4,6-dichloro-5-ethylthiopyrimidine | 0.039 mole, 9.8 g | C(C)(C)C1=NC(=C(C(=N1)Cl)SCC)Cl | C9H12Cl2N2S
reactant | peracetic acid | 0.08 mole, 15.2 g | C(C)(=O)OO | C2H4O3
reactant | water | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-isopropyl-4,6-dichloro-5-ethylsulfonylpyrimidine | C(C)(C)C1=NC(=C(C(=N1)Cl)S(=O)(=O)CC)Cl | C9H12Cl2N2O2S
